US08420655B2
1-tert-Butyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-5-(1H-pyrrolo[2,3-b]pyridin-5-yl)-1H-benzimidazole
To a solution of 5-bromo-1-tert-butyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazole (100 mg, 0.24 mmol) in DMF (5 mL) and H2O (1 mL) are added 7-azaindole-5-boronic acid pinacol ester (89 mg, 0.37 mmol), Pd(PPh3)4 (28 mg, 0.024 mmol) and K2CO3 (34 mg, 0.24 mmol) at room temperature. The solution is heated to 120° C. for 1 hour in a microwave reactor. The solution is cooled down and 3-mercaptopropyl-functionalized silica gel (500 mg) is added. The mixture is stirred for 15 minutes and is filtered. The filtrate is washed with H2O (10 mL) and is extracted with EtOAc (3×15 mL). The combined organic layer is (MgSO4), filtered and concentrated and the residue is purified by preparative HPLC to afford the title compound (11 mg, 10%) as a white foam. LCMS (ESMS): m/z 449.77 (M++1)

reactant | 5-bromo-1-tert-butyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazole | 0.24 mmol, 100 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NC(=NO2)C)C(C)(C)C)C=C1 | C20H19BrN4O
reactant | 7-azaindole-5-boronic acid pinacol ester | 0.37 mmol, 89 mg | N1C=CC2=CC(=CN=C12)B1OC(C)(C)C(C)(C)O1 | C13H17BN2O2
reactant | K2CO3 | 0.24 mmol, 34 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.024 mmol, 28 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-tert-Butyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-5-(1H-pyrrolo[2,3-b]pyridin-5-yl)-1H-benzimidazole | 11 mg, 10% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=C1C(=NC2)NC=C1)C1=C(C=CC=C1)C1=NC(=NO1)C | C27H24N6O
